.include Subcircuits/analog.lib
.include Subcircuits/ad633.cir
V1 Input_Amplifier_StageOA1Out 0 DC 2
VDD VDD 0 DC 10
XNL1 Input_Amplifier_StageOA1Out Non-LinearityNLA1Out Non-LinearityNLA1Out Input_Amplifier_StageVDD Non-LinearityVNeg AD712_AD
XM1 Non-LinearityMulti1In 0 Non-LinearityMulti1In 0 Non-LinearityVNeg 0 Non-LinearityMulti2In VDD AD633AN
RV1 Non-LinearityRtoPot Non-LinearityNLA3Pos 10k
RV2 Non-LinearityNLA3Pos 0 10k
RV4 Non-LinearityNLA2Pos 0 10k
XNL2 Non-LinearityNLA2Pos Non-LinearityNLA1Out Non-LinearityMulti1In Input_Amplifier_StageVDD Non-LinearityVNeg AD712_AD
R5 Non-LinearityRtoPot Non-LinearityNLA1Out 56k
RV3 Non-LinearityMulti1In Non-LinearityNLA2Pos 10k
XM2 Non-LinearityMulti2In 0 Non-LinearityMult2In 0 Non-LinearityVNeg 0 Non-LinearityMult2Out VDD AD633AN
V3 Non-LinearityVNeg 0 DC -10 
RV5 0 Non-LinearityMult3Y2 1k
XNL3 Non-LinearityNLA3Pos Non-LinearityNLA3Neg NLOut Input_Amplifier_StageVDD Non-LinearityVNeg AD712_AD
RV6 Non-LinearityMult3Y2 Non-LinearityVNeg 57k
XM3 Non-LinearityNLOut 0 Non-LinearityMult2Out Non-LinearityMult3Y2 Non-LinearityVNeg 0 Non-LinearityNLA3Neg VDD AD633AN