* Title Pablo's Non-Linearity Circuit
.include /Users/paulpickering/Library/CloudStorage/OneDrive-Personal/Uni/Placement/Mackey-Glass-Circuit/Simulations/NGSpice/MGNGSpice/Subcircuits/analog.lib
.include /Users/paulpickering/Library/CloudStorage/OneDrive-Personal/Uni/Placement/Mackey-Glass-Circuit/Simulations/NGSpice/MGNGSpice/Subcircuits/ad633.cir
* THIS WORKS
V1 VIn 0 DC 2
VDD VDD 0 DC 10
XNL1 VIn NLA1Out VDD VNeg NLA1Out AD712_AD
XM1 Mult1In 0 Mult1In 0 VNeg 0 Mult2In VDD AD633AN
R2 RtoPot NLA3Pos 15k
R3 NLA3Pos 0 10k
RF2 NLA2Neg 0 1k
RF1 Mult1In NLA2Neg 1k
XNL2 NLA1Out NLA2Neg VDD VNeg Mult1In AD712_AD
R1 RtoPot NLA1Out 56k
XM2 Mult2In 0 Mult2In 0 VNeg 0 Mult2Out VDD AD633AN
V3 VNeg 0 DC -10 
R4 0 Mult3Y2 1k
XNL3 NLA3Pos NLA3Neg VDD VNeg NLOut AD712_AD
R5 Mult3Y2 R5toR6 1k
R6 R5toR6 VNeg 56k
XM3 NLOut 0 Mult2Out Mult3Y2 VNeg 0 NLA3Neg VDD AD633AN